US05171863
3(-1-acetoxytridecyl)-4-phenylfuran
Dodecylmagnesium bromide (a 1.0M solution in THF; 2.11 ml, 2.11 mmol) was added to a solution of 4-phenyl-3-furaldehyde (303 mg, 1.76 mmol) in THF at 0 degrees under argon and gradually allowed to warm to room temperature with stirring. When all of the aldehyde was consumed acetic anhydride (719 mg, 7.04 mmol) was added and stirring was continued for 2 hours more. The reaction was quenched with saturated ammonium chloride and the organics were extracted into ethyl ether. The combined fractions were washed with saturated sodium bicarbonate, water and brine, dried over magnesium sulfate and concentrated to a yellow oil which was purified by flash chromatography on silica using 3% ethyl ether hexanes to give the title compound.

reactant | Dodecylmagnesium bromide | C(CCCCCCCCCCC)[Mg]Br
reactant | 4-phenyl-3-furaldehyde | 1.76 mmol, 303 mg | C1(=CC=CC=C1)C=1C(=COC1)C=O | C11H8O2
reactant | acetic anhydride | 7.04 mmol, 719 mg | C(C)(=O)OC(C)=O | C4H6O3
solvent | THF | C1CCOC1 | C4H8O
product | 3(-1-acetoxytridecyl)-4-phenylfuran | C(C)(=O)OC(CCCCCCCCCCCC)C1=COC=C1C1=CC=CC=C1 | C25H36O3
